US07902203B2
methyl (2S)-1-(chlorosulfonyl)-2-pyrrolidinecarboxylate
A solution of L-proline methyl ester hydrochloride (0.33 g, 0.002 mole) in toluene (5 ml), dichloromethane (2 ml) and triethylamine (0.6 ml, 0.004 mole) was added dropwise over a period of 3 minutes to a cold (−20° C.) solution of sulfuryl chloride (0.32 ml, 0.0039 mole) in toluene. The mixture was stirred an additional 45 minutes at −20° C. The reaction was filtered and the solvent was removed under reduced pressure to give the title compound (0.40 g). 1H NMR (300 MHz, CDCl3) δ 2.13 (m, 2 H) 2.32 (m, 2 H) 3.58 (m, 1 H) 3.75 (m, 1 H) 3.79 (s, 3 H) 4.40 (dd, J=8.82, 4.04 Hz, 1 H).

reactant | L-proline methyl ester hydrochloride | 0.002 mole, 0.33 g | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 0.004 mole, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | sulfuryl chloride | 0.0039 mole, 0.32 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | methyl (2S)-1-(chlorosulfonyl)-2-pyrrolidinecarboxylate | 0.40 g | ClS(=O)(=O)N1[C@@H](CCC1)C(=O)OC | C6H10ClNO4S
